US04775675
3-Acetyl-2(R)-(4-chlorophenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid
4.2 g (30 mmoles) of 4-chlorobenzaldehyde are given to the suspension containing 5.73 g (30 mmoles) of N-acetyl-D-penicillamine in 18 ml of ethereal hydrogen chloride solution under stirring for 12 minutes. After dissolution, a product is precipitated which is filtered out and washed with ether to give 8.32 g (88.4%) of the title compound, m.p.: 197°-198° C. after recrystallization from ethyl acetate, [α]D =+230.5° (c=0.59, methanol).

reactant | 4-chlorobenzaldehyde | 30 mmoles, 4.2 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | N-acetyl-D-penicillamine | 30 mmoles, 5.73 g | C(C)(=O)N[C@H](C(C)(C)S)C(=O)O | C7H13NO3S
solvent | hydrogen chloride | 18 ml | Cl | ClH
product | 3-Acetyl-2(R)-(4-chlorophenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid | 8.32 g, 88.4% | C(C)(=O)N1[C@H](SC([C@@H]1C(=O)O)(C)C)C1=CC=C(C=C1)Cl | C14H16ClNO3S
